US05194423
The synthesis was carried out in the same manner as described in Example 3b, except that 30 g (0.13 mol) of 1-(2,6-diisopropylphenyloxy)-2-propanol were used instead of 50 g (0.23 mol) of 1-(2-tert-butylphenyloxy)-2-butanol and the amount of the same palladium catalyst was increased to 1.5 g. The reaction was carried out for 5 hours and 21 g of 1-(2,6-diisopropylcyclohexyloxy)-2-propanol were obtained in a 67% yield.

reactant | 1-(2,6-diisopropylphenyloxy)-2-propanol | 0.13 mol, 30 g | C(C)(C)C1=C(C(=CC=C1)C(C)C)OCC(C)O | C15H24O2
reactant | 1-(2-tert-butylphenyloxy)-2-butanol | 0.23 mol, 50 g | C(C)(C)(C)C1=C(C=CC=C1)OCC(CC)O | C14H22O2
catalyst | palladium | [Pd] | Pd
product | 1-(2,6-diisopropylcyclohexyloxy)-2-propanol | 21 g, 67% yield | C(C)(C)C1C(C(CCC1)C(C)C)OCC(C)O | C15H30O2
